* c:\users\91809\esim-workspace\2bit_dac\2bit_dac.cir

.include switch.sub
r4  /vdd net-_r3-pad1_ 250
r3  net-_r3-pad1_ net-_r2-pad1_ 250
r2  net-_r2-pad1_ net-_r1-pad1_ 250
r1  net-_r1-pad1_ gnd 250
* u1  /vdd /d0 /d1 /vout port
x1 /d0 /vdd net-_r3-pad1_ net-_r2-pad1_ net-_x1-pad5_ switch
x2 /d0 /vdd net-_r1-pad1_ gnd net-_x2-pad5_ switch
x3 /d1 /vdd net-_x1-pad5_ net-_x2-pad5_ /vout switch
.tran 0.1ns 20ns

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
