* c:\fossee\esim\library\subcircuitlibrary\2bit_dac\2bit_dac.cir

.include switch.sub
r1  /vrefh net-_r1-pad2_ resistor
r2  net-_r1-pad2_ net-_r2-pad2_ resistor
r3  net-_r2-pad2_ net-_r3-pad2_ resistor
r4  net-_r3-pad2_ /vrefl resistor
* u1  /vrefh /vrefl /d0 /d1 /vdd /vout port
x1 /d0 /vdd net-_r1-pad2_ net-_r2-pad2_ net-_x1-pad5_ switch
x2 /d0 /vdd net-_r3-pad2_ /vrefl net-_x2-pad5_ switch
x3 /d1 /vdd net-_x1-pad5_ net-_x2-pad5_ /vout switch
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
