* c:\users\91809\esim-workspace\6bit_dac\6bit_dac.cir

.include 5bit_DACa.sub
.include switch.sub
x1 /vrefh net-_x1-pad2_ /d0 /d1 /d2 /d3 /d4 /vdd net-_x1-pad9_ 5bit_DAC
x2 net-_x1-pad2_ /vrefl /d0 /d1 /d2 /d3 /d4 /vdd net-_x2-pad9_ 5bit_DAC
x3 /d5 /vdd net-_x1-pad9_ net-_x2-pad9_ /vout switch
* u1  /vrefh /vrefl /d0 /d1 /d2 /d3 /d4 /d5 /vdd /vout port

Vdd /vdd 0 3.3
Vd0 /d0 0 pulse(0 1.8 0ns 1ps 1ps 5us 10us)
Vd1 /d1 0 pulse(0 1.8 0ns 1ps 1ps 10us 20us)
Vd2 /d2 0 pulse(0 1.8 0ns 1ps 1ps 20us 40us)
Vd3 /d3 0 pulse(0 1.8 0ns 1ps 1ps 40us 80us)
Vd4 /d4 0 pulse(0 1.8 0ns 1ps 1ps 80us 160us)
Vd5 /d5 0 pulse(0 1.8 0ns 1ps 1ps 160us 320us)
Vrefh /vrefh 0 3.3
Vrefl /vrefl 0 0

.tran 2us 320us

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
